US06649641B2
Step 2: 5-(4-Formylphenyl)pent-4-enoic Acid
1-(4-Diethoxymethylphenyl)prop-2-en-1-ol (9.90 g, 42 mmol) was dissolved in triethyl ortho formiate (50 ml), and propionic acid (1.0 ml) was added. The solution was heated to 140° C. for 48 hours. Solvent was removed by rotary evaporation, and the orange oil was re-suspended in aqueous HCl (200 ml, 2 N). The mixture was heated to reflux for 4 hours, then cooled on an ice-bath for 30 min. Precipitated material was collected and washed twice with water and dried in a vacuum oven. Yield: 3.02 g (35%).

reactant | 1-(4-Diethoxymethylphenyl)prop-2-en-1-ol | 42 mmol, 9.90 g | C(C)OC(C1=CC=C(C=C1)C(C=C)O)OCC | C14H20O3
reactant | propionic acid | 1.0 ml | C(CC)(=O)O | C3H6O2
product | 5-(4-Formylphenyl)pent-4-enoic Acid | C(=O)C1=CC=C(C=C1)C=CCCC(=O)O | C12H12O3
